US04717724
(a) 6-Methoxy-2-capryloyl-1,2,3,4-tetrahydroisoquinoline
4.0 g of 6-methoxy-1,2,3,4-tetrahydroisoquinoline and 3.5 ml of triethylamine in 50 ml of methylene chloride are initially introduced, and a solution of 4.0 g of octanoyl chloride in 10 ml of methylene chloride is added dropwise with stirring and cooling. The mixture is stirred at room temperature for 1 hour, then shaken with 1N hydrochloric acid, sodium carbonate solution and water, and the organic phase is dried over magnesium sulfate and evaporated in a rotary evaporator. The crude product (6.7 g of colorless oil) is reacted further without purification.

reactant | 6-methoxy-1,2,3,4-tetrahydroisoquinoline | 4.0 g | COC=1C=C2CCNCC2=CC1 | C10H13NO
reactant | octanoyl chloride | 4.0 g | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
product | 6-Methoxy-2-capryloyl-1,2,3,4-tetrahydroisoquinoline | COC=1C=C2CCN(CC2=CC1)C(CCCCCCC)=O | C18H27NO2
